US05731315
A. (3-Chlorothiophene-2-yl)pyridine
3-Chlorothiophene-2-boronic acid (1.5 g, 9.24 mmol), prepared as described in EXAMPLE 48, Part A from 3-chlorothiophene was reacted with 3-bromopyridine (0.81 mL, 8.4 mmol) as described in EXAMPLE 48, Part B to give the title compound (0.232 g, 1.19 mmol).

reactant | 3-Chlorothiophene-2-boronic acid | 9.24 mmol, 1.5 g | ClC1=C(SC=C1)B(O)O | C4H4BClO2S
reactant | 3-chlorothiophene | ClC1=CSC=C1 | C4H3ClS
reactant | 3-bromopyridine | 8.4 mmol, 0.81 mL | BrC=1C=NC=CC1 | C5H4BrN
product | (3-Chlorothiophene-2-yl)pyridine | 1.19 mmol, 0.232 g | ClC1=C(SC=C1)C1=NC=CC=C1 | C9H6ClNS
